US04251534
To 390 gm. (2 moles) of hexafluoroacetone sesquihydrate is added 109 gm. (1 mole) of 2-aminohydroxybenzene. The mixture is stirred and heated at reflux in a nitrogen atmosphere for 24 hours. At the end of this period, the solution is concentrated and the residual material is added to 2 liters of water. The aqueous mixture is extracted with ether. The ethereal layer is dried over anhydrous magnesium sulfate and filtered. The filtrate is concentrated to give an oily solid. The oily solid is purified by chromatography on silica gel. Elution with 75% toluene/25% ethyl acetate gives a solid. The solid is recrystallized from ethyl acetate/hexane to give 58 gm of 4-amino-3-hydroxy[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-benzene (m.p. 168°-170°).

reactant | hexafluoroacetone sesquihydrate | 2 moles | O.FC(C(=O)C(F)(F)F)(F)F.O.O.FC(C(=O)C(F)(F)F)(F)F
reactant | 2-aminohydroxybenzene | 1 mole | NC1=C(C=CC=C1)O | C6H7NO
product | 4-amino-3-hydroxy[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-benzene | 58 gm | NC1=C(C=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)O | C9H7F6NO2
